US07326791B2
(c) N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(imidazol-1-ylmethyl)-3-methoxybenzamide
Prepared analogously to Example 1g from 4-(imidazol-1-ylmethyl)-3-methoxybenzoic acid, TBTU, diisopropylethylamine and (1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine in tetrahydrofuran. Yield: 98%; Rf value: 0.48 (silica gel; dichloromethane/ethanol=4:1); C21H20ClN5O2 (409.879); mass spectrum: (M+H)+=410/412 (chlorine isotope) and (M−H)−=408/410 (chlorine isotope).

reactant | 4-(imidazol-1-ylmethyl)-3-methoxybenzoic acid | N1(C=NC=C1)CC1=C(C=C(C(=O)O)C=C1)OC | C12H12N2O3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethylamine | ClC1=CC2=C(NC(=N2)[C@H](C)N)C=C1 | C9H10ClN3
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(imidazol-1-ylmethyl)-3-methoxybenzamide | Yield: 98% | ClC1=CC2=C(NC(=N2)[C@H](C)NC(C2=CC(=C(C=C2)CN2C=NC=C2)OC)=O)C=C1 | C21H20ClN5O2
